* Schematics Netlist *



D_D1         $N_0001 $N_0002 Dbreak 
M_M3         $N_0001 $N_0003 0 0 IRFP250
C_C1         0 $N_0002  50u  
V_V2         $N_0003 0 DC 0 AC 0
+PULSE 0 10 0 10n 10n 23.38u 33.4u
L_L1         $N_0004 $N_0001  100uH  
R_RCarga         0 $N_0002  50  
V_V1         $N_0004 0 DC 18 AC 0 
